US08461181B2
A mixture of 0.40 g of N2-methyl-5-trifluoromethylpyridine-2,3-diamine, 0.32 g of 3-methylisonicotinic acid, 0.44 g of WSC and 10 ml of pyridine was stirred for 5 hours at 120° C. The reaction mixture was cooled down to room temperature. Into the reaction mixture was poured water, and the mixture was extracted three times with ethyl acetate. The organic layer was dried over magnesium sulfate, then, concentrated under reduced pressure. To the residue was added a mixture of 0.60 g of p-toluenesulfonic acid monohydrate and 10 ml of toluene, and the mixture was stirred for 1 hour at 120° C. Toluene was distilled off from this mixture. To the residue was added 10 ml of phenyl bromide, and the mixture was stirred for 4 hours at 150° C. The reaction mixture was cooled down to room temperature. Into the reaction mixture was poured water, and the mixture was extracted three times with ethyl acetate. The organic layer was dried over magnesium sulfate, then, concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.14 g of 3-methyl-2-(3-methylpyridin-4-yl-)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (hereinafter, referred to as present active compound 216).

reactant | N2-methyl-5-trifluoromethylpyridine-2,3-diamine | 0.40 g | CNC1=NC=C(C=C1N)C(F)(F)F | C7H8F3N3
reactant | 3-methylisonicotinic acid | 0.32 g | CC1=C(C(=O)O)C=CN=C1 | C7H7NO2
reactant | WSC | 0.44 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3-methyl-2-(3-methylpyridin-4-yl-)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.14 g | CN1C(=NC=2C1=NC=C(C2)C(F)(F)F)C2=C(C=NC=C2)C | C14H11F3N4
